US05411933
2. Synthesis of Bromopropargyl p-Toluenesulfonate
In a 100 mL 3-necked round bottom flask, equipped with a magnetic stirrer, nitrogen inlet, thermometer, addition funnel, and ice bath, were placed bromopropargyl alcohol (5 g, 0.037 mole) and tetrahydrofuran (10 mL). A cold solution of NaOH (2.2 g, 0.55 mole) in water (10 mL) was added. To the above stirred mixture a solution of p-toluenesufonyl chloride (7.06 g, 0.037 mole) in tetrahydrofuran (10 mL) was slowly added. The reaction mixture was stirred at 0°-5° C. for 4 hrs. The reaction mixture was then poured into ice water and the resultant white precipitate was collected by suction-filtration and washed with water. After drying in air, an off-white solid was obtained yielding 9.9 g (92.5% yield) m.p. =43°-46° C. An NMR (CDCl3) spectrum indicated the desired compound (V, R3 =p-tolyl). This compound is used in the next example without further purification.

reactant | bromopropargyl alcohol | 0.037 mole, 5 g | BrC(C#C)O | C3H3BrO
reactant | NaOH | 0.55 mole, 2.2 g | [OH-].[Na+]
reactant | p-toluenesufonyl chloride | 0.037 mole, 7.06 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Bromopropargyl p-Toluenesulfonate | 92.5% yield | C1(=CC=C(C=C1)S(=O)(=O)OC(C#C)Br)C | C10H9BrO3S
